US06124493
Example 4: o-Chloromethyl-Phenylglyoxylic Acid Methyl Ester VIIa
15.9 g of methyl chloroformate (165 mmol) are added at from 20 to 25° C. to a solution of 18.3 g of o-(N,N-dimethylaminomethyl)-phenylglyoxylic acid methyl ester Va (content 88.6%; 73.3 mol) in 100 ml of toluene. The reaction mixture is stirred at RT overnight, heated at 60° C. for 1 h, cooled and concentrated by evaporation in vacuo. 15.3 g (content 83%; yield 82%) of product are obtained.

reactant | methyl chloroformate | 165 mmol, 15.9 g | ClC(=O)OC | C2H3ClO2
reactant | o-(N,N-dimethylaminomethyl)-phenylglyoxylic acid methyl ester | 18.3 g | COC(C(=O)C1=C(C=CC=C1)CN(C)C)=O | C12H15NO3
solvent | toluene | 100 ml | C1(=CC=CC=C1)C | C7H8
product | o-Chloromethyl-Phenylglyoxylic Acid Methyl Ester | yield 82% | COC(C(=O)C1=C(C=CC=C1)CCl)=O | C10H9ClO3
